US09127003B2
Intermediate 17: 1-Ethyl-5-methoxy-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid
To a solution of 5-methoxy-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid (500 mg, 2.60 mmol) (available from, for example, Activate Scientific GmbH) in dimethyl sulfoxide (DMSO) (5 mL) was added potassium hydroxide (438 mg, 7.81 mmol) and bromoethane (0.427 mL, 5.72 mmol). The reaction was stirred at room temperature for 18 h before adding further potassium hydroxide (120 mg) and bromoethane (0.13 ml). After stirring for a further 4 h, the reaction mixture was stood under nitrogen for ca. 66 h. It was then partitioned between water and diethyl ether. The layers were separated and the aqueous was washed with diethyl ether. The aqueous was acidified to pH=3, and was extracted with ethyl acetate (twice). The combined ethyl acetate extracts were washed with water and concentrated in vacuo to yield the title compound as a pale beige solid (148 mg).

reactant | 5-methoxy-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid | 2.60 mmol, 500 mg | COC=1C=C2C(=CN1)NC(=C2)C(=O)O | C9H8N2O3
reactant | potassium hydroxide | 7.81 mmol, 438 mg | [OH-].[K+]
reactant | bromoethane | 5.72 mmol, 0.427 mL | BrCC | C2H5Br
reactant | potassium hydroxide | 120 mg | [OH-].[K+]
reactant | bromoethane | 0.13 ml | BrCC | C2H5Br
solvent | dimethyl sulfoxide | 5 mL | CS(=O)C | C2H6OS
product | 1-Ethyl-5-methoxy-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid | 148 mg | C(C)N1C(=CC=2C1=CN=C(C2)OC)C(=O)O | C11H12N2O3
